US04959368
Potassium hydroxide (3.1 g) was added to 200 ml of ethanol, and the mixture was stirred for 30 minutes. Then, 12.4 g of 1-amidino-4-benzylpiperazine sulfate was added. The mixture was stirred at room temperature for 10 minutes. To the solution was added 12.4 g of diethyl acetylsuccinate. The mixture was refluxed for 2 hours. Then, 200 ml of toluene was added, and the mixture was refluxed for 3 hours. After the reaction, ethanol was evaporated, and the residue was poured into 50 ml of an aqueous solution of hydrochloric acid. NaHCO3 was added to the solution to neutralize it. The precipitated solid was washed with water and dried over P2O5 to give 2.55 g (yield 15%) of 2-(4-benzylpiperazino)-5-ethoxycarbonylmethyl-4-hydroxy-6-methylpyrimidine as a white solid.

reactant | Potassium hydroxide | 3.1 g | [OH-].[K+]
reactant | 1-amidino-4-benzylpiperazine sulfate | 12.4 g | S(=O)(=O)(O)O.C(N)(=N)N1CCN(CC1)CC1=CC=CC=C1
reactant | diethyl acetylsuccinate | 12.4 g | C(C)(=O)C(C(=O)OCC)CC(=O)OCC | C10H16O5
solvent | ethanol | C(C)O | C2H6O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-(4-benzylpiperazino)-5-ethoxycarbonylmethyl-4-hydroxy-6-methylpyrimidine | 2.55 g, yield 15% | C(C1=CC=CC=C1)N1CCN(CC1)C1=NC(=C(C(=N1)O)CC(=O)OCC)C | C20H26N4O3
